US07790712B2
A mixture of 60% NaH in mineral oil (115 mg, 2.9 mmol) and 1H-indole-2,6-dicarboxylic acid diethyl ester (500 mg, 1.9 mmol) in DMF (3 mL) was stirred at room temperature for 0.5 h. Then bromo-acetonitrile in DMF (1 mL) was added and the reaction was warmed to 77° C. and kept at this temperature overnight. The reaction was cooled and quenched with ice water. A large amount of precipitate formed which was filtered and rinsed with water, followed by cold ether. The wet cake was dried in the vacuum oven (50° C.) to give 585 mg of 1-cyanomethyl-1H-indole-2,6-dicarboxylic acid diethyl ester.

reactant | NaH | [H-].[Na+]
reactant | 1H-indole-2,6-dicarboxylic acid diethyl ester | 1.9 mmol, 500 mg | C(C)OC(=O)C=1NC2=CC(=CC=C2C1)C(=O)OCC | C14H15NO4
reactant | bromo-acetonitrile | BrCC#N | C2H2BrN
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-cyanomethyl-1H-indole-2,6-dicarboxylic acid diethyl ester | 585 mg | C(C)OC(=O)C=1N(C2=CC(=CC=C2C1)C(=O)OCC)CC#N | C16H16N2O4
